US07642264B2
2-(3-Bromo-phenyl)-4-(4-chloro-phenyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 2-chloro-4-(4-chloro-phenyl)-6-trifluoromethyl-pyrimidine (example A.1) (0.59 g, 2.0 mmol) and commercially available 3-bromo-benzeneboronic acid (0.44 g, 2.20 mmol) according to the general procedure IVa. Obtained as a white solid (0.71 g, 86%). MS (EI) 413.9 [(M)+]; mp 146° C.

reactant | 2-chloro-4-(4-chloro-phenyl)-6-trifluoromethyl-pyrimidine | 2.0 mmol, 0.59 g | ClC1=NC(=CC(=N1)C1=CC=C(C=C1)Cl)C(F)(F)F | C11H5Cl2F3N2
reactant | 3-bromo-benzeneboronic acid | 2.20 mmol, 0.44 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
product | 2-(3-Bromo-phenyl)-4-(4-chloro-phenyl)-6-trifluoromethyl-pyrimidine | BrC=1C=C(C=CC1)C1=NC(=CC(=N1)C1=CC=C(C=C1)Cl)C(F)(F)F | C17H9BrClF3N2
